US09130177B2
Synthesis of 2-(3,5-dimethylphenyl)-5-isobutylquinoline
5-Chloro-2-(3,5-dimethylphenyl)quinoline (4.3 g, 16.06 mmol), isobutylboronic acid (3.2 g, 31.4 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (0.538 g, 1.31 mmol), and potassium phosphate monohydrate (18.3 g, 79 mmol) were mixed in 114 mL of toluene. The system was degassed for 20 minutes. Pd2(dba)3 was then added and the system was refluxed overnight. After cooling to room temperature, the reaction mixture was filtered through a Celite® plug and eluted with dichloromethane. The product was further purified by a Kugelrohr distillation and then further purified by column chromatography using 5% ethyl acetate in hexanes. This was followed by another Kugelrohr distillation to give 3.2 g (72% yield) of product.

reactant | 5-Chloro-2-(3,5-dimethylphenyl)quinoline | 16.06 mmol, 4.3 g | ClC1=C2C=CC(=NC2=CC=C1)C1=CC(=CC(=C1)C)C | C17H14ClN
reactant | isobutylboronic acid | 31.4 mmol, 3.2 g | C(C(C)C)B(O)O | C4H11BO2
reactant | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 1.31 mmol, 0.538 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate monohydrate | 79 mmol, 18.3 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 114 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3,5-dimethylphenyl)-5-isobutylquinoline | 3.2 g, 72% yield | CC=1C=C(C=C(C1)C)C1=NC2=CC=CC(=C2C=C1)CC(C)C | C21H23N
